US07465803B2
To a solution of paracetamol (2.56 g, 16.92 mmoles) in pyridine (20 ml) cooled in an ice bath trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoyl chloride (4.31 g, 16.92 mmoles) dissolved in acetone (45 ml) is dropped. The mixture is maintained under stirring in ice for 3 hours then it is poured into water (300 ml) and the precipitate is filtered and triturated with hexane to give trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoic acid 4-(acetylamino)phenyl ester (4.38 g) as an orange solid. M.p. 246-250° C. Yield 70%.

reactant | paracetamol | 16.92 mmoles, 2.56 g | N(C(=O)C)C1=CC=C(O)C=C1 | C8H9NO2
reactant | trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoyl chloride | 16.92 mmoles, 4.31 g | C(C)(=O)OC1=C(C=C(C=C1)/C=C/C(=O)Cl)OC | C12H11ClO4
reactant | water | 300 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | trans-3-[4-acetyloxy-3-methoxyphenyl]-2-propenoic acid 4-(acetylamino)phenyl ester | 4.38 g, Yield 70% | C(C)(=O)NC1=CC=C(C=C1)OC(\C=C\C1=CC(=C(C=C1)OC(C)=O)OC)=O | C20H19NO6
